US07368578B2
To a solution (200 mL) of 1,1′-thiocarbonyldiimidazole (15.0 g) in tetrahydrofuran was added ethyl piperidine-4-carboxylate (12.59 g) at room temperature, and the mixture was stirred at room temperature for 3 hrs and then at 55° C. for 1 hr. Tetrahydrofuran (ca. 100 mL) was distilled off under reduced pressure and 2M ammonia methanol solution (150 mL) was added. After stirring the reaction mixture at room temperature for 15 hrs, the mixture was concentrated. The residue was diluted with ethyl acetate and washed successively with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (2:1, v/v) to give ethyl 1-(aminocarbonothioyl)piperidine-4-carboxylate as colorless crystals (4.76 g, yield 27%). The crystals were recrystallized from ethyl acetate-hexane. melting point: 97-98° C.

reactant | 1,1′-thiocarbonyldiimidazole | 200 mL, 15.0 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | ethyl piperidine-4-carboxylate | 12.59 g | N1CCC(CC1)C(=O)OCC | C8H15NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 1-(aminocarbonothioyl)piperidine-4-carboxylate | 4.76 g, yield 27% | NC(=S)N1CCC(CC1)C(=O)OCC | C9H16N2O2S
